US09029544B2
Diethyl 2-(4-aminophenyl)-2-methylmalonate
To a solution of 4.98 g Diethyl 2-methyl-2-(4-nitrophenyl)malonate in 70 ml methanol are added 896 mg of 10% palladium on charcoal. The mixture is hydrogenated at 2 bar for 3 hours. After filtration the solvent is evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 90:10 to 50:50).

reactant | Diethyl 2-methyl-2-(4-nitrophenyl)malonate | 4.98 g | CC(C(=O)OCC)(C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C14H17NO6
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium on charcoal | 896 mg | [Pd] | Pd
product | Diethyl 2-(4-aminophenyl)-2-methylmalonate | NC1=CC=C(C=C1)C(C(=O)OCC)(C(=O)OCC)C | C14H19NO4
